US06335353B1
2-(1-Hydroxypropyl)-3-hydroxy-6-methyl-pyran-4(1H)-one
Allomaltol (12.6 g, 100 mmol, 1 eq.) was added to 100 ml water and the pH of the solution was adjusted to 10.5 using 50% aqueous sodium hydroxides. Propionaldehyde (8.7 g, 150 mmol, 1.5 eq.) dissolved in 50 ml methanol was slowly added dropwise over 1 hour and the solution allowed to stir at room temperature for 48 hours. After adjustment to pH 1 with 37% hydrochloric acid, the reaction mixture was evaporated to dryness and the residue taken up into 300 ml of dichloromethane. The organic layer was washed with water (150 ml), dried over anhydrous sodium sulphate, filtered and concentrated to yield the crude product. Recrystallisation from toluene afforded the pure product (14.5 g, 78.9%) as a white crystalline solid. m.p. 134-136° C. [lit. 132-135° C. Ellis (1993)].

reactant | Allomaltol | 100 mmol, 12.6 g, 1 eq. | CC1=CC(=O)C(=CO1)O | C6H6O3
reactant | water | 100 ml | O | H2O
reactant | Propionaldehyde | 150 mmol, 8.7 g, 1.5 eq. | C(CC)=O | C3H6O
solvent | methanol | 50 ml | CO | CH4O
product | 2-(1-Hydroxypropyl)-3-hydroxy-6-methyl-pyran-4(1H)-one | 14.5 g, 78.9% | OC(CC)C=1OC(=CC(C1O)=O)C | C9H12O4
